US07378409B2
A solution of tert-butyl(1R,3R,4S)-4-benzyloxycarbonylamino-3-(hydroxymethyl)cyclohexylcarbamate (75 mg) in dichloromethane (1 mL) and N,N-dimethylformamide (0.1 mL) was-treated with triethylamine (3 μL) and phenyl isocyanate (33 μL), and the mixture was and stirred at rt for 18 h. Additional phenyl isocyanate (22 μL) was added and stirring was continued for 96 h. The mixture was concentrated, and the residue was purified by flash column chromatography on silica gel, eluting with 4:6 v/v ethyl acetate/hexane, to provide tert-butyl(1R,3R,4S)-(4-benzyloxycarbonylamino-3-phenylcarbamoyloxymethylcyclohexyl)carbamate as a white glassy foam (85 mg). MS found: (M+H)+=498.3.

reactant | tert-butyl(1R,3R,4S)-4-benzyloxycarbonylamino-3-(hydroxymethyl)cyclohexylcarbamate | 75 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CO | C20H30N2O5
reactant | triethylamine | 3 μL | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 33 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | phenyl isocyanate | 22 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
product | tert-butyl(1R,3R,4S)-(4-benzyloxycarbonylamino-3-phenylcarbamoyloxymethylcyclohexyl)carbamate | 85 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)COC(NC1=CC=CC=C1)=O | C27H35N3O6
